US04771046
1.77 g of trisodium phosphorothioate were added to an ice-cooled solution of 2.1 g of 2-(4-hydroxyiminopiperidin-1-yl)-2-iminoethylchloride hydrochloride in 12 ml of water, the mixture was stirred at room temperature for about one hour, 9.8 ml of 1N hydrochloric acid were then added, and the mixture was heated at 65° C. for 30 minutes. The reaction mixture was concentrated under reduced pressure, the concentrate was mixed with 9.8 ml of methanol, and insolubles were filtered off. The filtrate was concentrated under reduced pressure, ether was added to the concentrate, and the crystals which separated out were collected by filtration and washed with ether, giving 1.8 g of 2-(4-hydroxyiminopiperidin-1-yl)-2-iminoethylmercaptan hydrochloride.

reactant | trisodium phosphorothioate | 1.77 g | P([O-])([O-])([O-])=S.[Na+].[Na+].[Na+]
reactant | 2-(4-hydroxyiminopiperidin-1-yl)-2-iminoethylchloride hydrochloride | 2.1 g | Cl.ON=C1CCN(CC1)C(CCl)=N
reactant | hydrochloric acid | 1N, 9.8 ml | Cl | ClH
solvent | water | 12 ml | O | H2O
product | 2-(4-hydroxyiminopiperidin-1-yl)-2-iminoethylmercaptan hydrochloride | 1.8 g | Cl.ON=C1CCN(CC1)C(CS)=N | InChI=1S/C7H13N3OS.ClH/c8-7(5-12)10-3-1-6(9-11)2-4-10;/h8,11-12H,1-5H2;1H
